US07989622B2
A solution of 2,3-dichloroquinoxaline (2.0 mL, 0.38 M) was combined with K2CO3 (105 mg, 0.76 mmol) in a glass vial. A solution of 4-isopropoxybenzene sulfonamide (1.75 mL, 0.43 M) was added and the solution was stirred overnight at 125° C. After cooling, acetic acid (45 mL, 0.79 mmol) and 3,5-dimethoxyaniline (230 mg, 1.5 mmol) were added. The reaction mixture was stirred again at 125° C. overnight. Upon cooling, the reaction mixture was diluted with 8 mL of methanol and then 8 mL of water. The precipitate was collected by filtration and recrystallized from N,N-dimethylacetamide/water to give N-(3-(3,5-dimethoxy-phenylamino)quinoxalin-2-yl)-4-isopropoxy-benzenesulfonamide (45 mg, 12%). 1H-NMR (400 MHz, d6-DMSO): 12.16 (bs, 1H), 8.93 (s, 1H), 8.03 (d, 2H), 7.92 (bs, 1H), 7.56 (d, 1H), 7.36 (m, 4H), 7.07 (d, 2H), 6.24 (s, 1H), 4.72 (m, 1H), 3.76 (s, 6H), 1.27 (d, 6H); MS (EI) m/z C25H26N4O5S: 495 (MH+).

reactant | 2,3-dichloroquinoxaline | 0.38 M, 2.0 mL | ClC1=NC2=CC=CC=C2N=C1Cl | C8H4Cl2N2
reactant | K2CO3 | 0.76 mmol, 105 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-isopropoxybenzene sulfonamide | 0.43 M, 1.75 mL | C(C)(C)OC1=CC=C(C=C1)S(=O)(=O)N | C9H13NO3S
reactant | acetic acid | 0.79 mmol, 45 mL | C(C)(=O)O | C2H4O2
reactant | 3,5-dimethoxyaniline | 1.5 mmol, 230 mg | COC=1C=C(N)C=C(C1)OC | C8H11NO2
solvent | methanol | 8 mL | CO | CH4O
solvent | water | 8 mL | O | H2O
product | N-(3-(3,5-dimethoxy-phenylamino)quinoxalin-2-yl)-4-isopropoxy-benzenesulfonamide | 45 mg, 12% | COC=1C=C(C=C(C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC=C(C=C1)OC(C)C | C25H26N4O5S
